US04556672
2-Oxindole-1-carboxamide
Chlorosulfonyl isocyanate (1.20 g, 8.4 mmole) was added to a mixture of 2-oxindole (0.94 g, 7.1 mmole) in ether (30 ml) and the reaction was stirred at room temperature for 20 hours. The ether was removed under vacuum and the residue was treated with water (10 ml) and 1N HCl (10 ml). Ethyl acetate (125 ml) was added and the mixture was stirred for one hour. The ethyl acetate phase was separated, washed with 1N HCl (1×50 ml), brine (2×100 ml) and dried (MgSO4). Concentration afforded 0.97 g (77%) of crude product. Recrystallization from ethanol gave 0.18 g of the title product, m.p. 177°-179° C.

reactant | Chlorosulfonyl isocyanate | 8.4 mmole, 1.20 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-oxindole | 7.1 mmole, 0.94 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
solvent | ether | 30 ml | CCOCC | C4H10O
product | 2-Oxindole-1-carboxamide | 0.18 g | N1(C(CC2=CC=CC=C12)=O)C(=O)N | C9H8N2O2
